US07572801B2
In analogy to the procedure described in example 78.1, 2-naphthalen-2-yl-ethanol was reacted with ethyl iodoacetate in the presence of silver trifluoromethanesulfonate and 2,6-di-tert-butylpyridin to give (2-naphthalen-2-yl-ethoxy)-acetic acid ethyl ester as colorless oil. MS: m/e=259.3 [M+H+].

reactant | 2-naphthalen-2-yl-ethanol | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
reactant | 2,6-di-tert-butylpyridin | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
catalyst | silver trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | (2-naphthalen-2-yl-ethoxy)-acetic acid ethyl ester | C(C)OC(COCCC1=CC2=CC=CC=C2C=C1)=O | C16H18O3
